US08497281B2
cis-1,2,3,4,4a,5,6,10b-Octahydro-benzo[f]quinoline-9-carbonitrile
Sodium nitrite (0.12 g) dissolved in water (0.7 mL) is added dropwise to a solution of cis-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinolin-9-ylamine (0.36 g) in half-concentrated sulfuric acid (0.6 ml) cooled to ca. −5° C. The solution is stirred for 15 min in the cooling bath prior to the addition of urea (30 mg). The resulting solution is added to a vigorously stirred solution of sodium cyanide (0.32 g) and copper(I) cyanide (0.19 g) in water (1.4 mL) cooled to ca. −5° C. The mixture is stirred in the cooling bath for another 10 min and then the cooling bath is removed. After stirring at room temperature for 10 min, the mixture is heated to 70° C. and stirred at this temperature for 1 h. The mixture is cooled to room temperature, basified with 4 M NaOH solution (1.5 mL), and extracted with dichloromethane. The combined extracts are dried (Na2SO4) and the solvent is evaporated. The residue is chromatographed on silica gel [dichloromethane/(dichloromethane/methanol/NH4OH 50:48:2) 80:20→40:60] to give the title compound as a resin-like solid. Yield: 0.12 g (31% of theory); Mass spectrum (ESI+): m/z=213 [M+H]+.

reactant | Sodium nitrite | 0.12 g | N(=O)[O-].[Na+]
reactant | cis-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinolin-9-ylamine | 0.36 g | C1CCN[C@H]2CCC3=C([C@@H]12)C=C(C=C3)N | C13H18N2
reactant | urea | 30 mg | NC(=O)N | CH4N2O
reactant | sodium cyanide | 0.32 g | [C-]#N.[Na+]
reactant | copper(I) cyanide | 0.19 g | [Cu]C#N
solvent | water | 0.7 mL | O | H2O
solvent | sulfuric acid | 0.6 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 1.4 mL | O | H2O
product | cis-1,2,3,4,4a,5,6,10b-Octahydro-benzo[f]quinoline-9-carbonitrile | C1CCN[C@H]2CCC3=C([C@@H]12)C=C(C=C3)C#N | C14H16N2
